US05185339
A mixture of methyl 6-(o-chlorobenzyl)-2-picoline imidate 5.5 g, 0.021 moles) and ammonium chloride (1.28 g, 0.024 moles) in ethanol (40 ml) was refluxed for 4 hours. The ethanol was removed in vacuo to give 6-(o-chlorobenzyl)-2-picoline amidine hydrochloride which was used in the final stage without further purification.

reactant | methyl 6-(o-chlorobenzyl)-2-picoline imidate | 0.021 moles, 5.5 g | ClC1=C(CC2=CC=CC(=N2)C(OC)=N)C=CC=C1 | C14H13ClN2O
reactant | ammonium chloride | 0.024 moles, 1.28 g | [Cl-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-(o-chlorobenzyl)-2-picoline amidine hydrochloride | Cl.ClC1=C(CC2=CC=CC(=N2)C(=N)N)C=CC=C1 | InChI=1S/C13H12ClN3.ClH/c14-11-6-2-1-4-9(11)8-10-5-3-7-12(17-10)13(15)16;/h1-7H,8H2,(H3,15,16);1H
